US07425634B2
(21a) 6,10-dioxaspiro[4.5]dec-8-ylmethanol
The same procedure as in the step (7a) of Example 7 was repeated using 2-(hydroxymethyl)-1,3-propanediol and cyclopentanone to obtain the title compound (2.8 g, yield: 87%) as yellow oil.

reactant | 2-(hydroxymethyl)-1,3-propanediol | OCC(CO)CO | C4H10O3
reactant | cyclopentanone | C1(CCCC1)=O | C5H8O
product | 6,10-dioxaspiro[4.5]dec-8-ylmethanol | 2.8 g, yield: 87% | C1CCCC12OCC(CO2)CO | C9H16O3
